US05674482
A mixture of dibutyl 4-hydroxybenzylphosphonate (1.77 g) in 18% aqueous hydrochloric acid (30 ml) is heated at reflux for about 18 hours, then is concentrated in vacuo. The residue is triturated in hexanes to give 4-hydroxybenzyl phosphonic acid.

reactant | dibutyl 4-hydroxybenzylphosphonate | 1.77 g | OC1=CC=C(CP(OCCCC)(OCCCC)=O)C=C1 | C15H25O4P
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | 4-hydroxybenzyl phosphonic acid | OC1=CC=C(CP(O)(O)=O)C=C1 | C7H9O4P
